data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3345,"CO[P:1](Cl)OC.C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6708,"C1CC[O:1]C1.CCC[CH2][Li:2]|(1, 2)"
train,pmechdb_split_0,0,1536,"CC(=O)NC1=CC=C([NH:1][N:2]=[O:3])C=C1.O=S(=O)(O)[O:4][H:5]|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9506,"CCCC1=CC=C[N+:1]([CH:2]2CC(O)C(COCC(C)C)[O:3]2)=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6890,"C[CH:1]([C:2](I)(I)I)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,51,"CCC(C=O)(CCCNC(=O)CCl)CCC(=O)CC1=C(NC(=O)[O:1][H:2])C=CC=C1.C[C+](C)C.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10062,"C[CH2][Sn-:1]([Cl])([CH2]C)([CH2]C)[CH2:2][CH+:3]CC([O][Zn-]([Cl])[Cl])C1=CC=CC=C1|((1, 2), 3)"
train,pmechdb_split_0,0,1719,"C[C:1]1([H:2])C2=C(C=CC=C2)[NH+:3]=[CH:4]1.O=C(C(F)(F)F)[O-:5]|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,909,"C[Si:1](C)(C)Cl.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5920,"CC[NH+](CC)CC.C[Si](C)(C)CCOC(=O)NC1CCC(C(=N)[O-:1])CC1.O=C(O[C:2](C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6797,"C[N+:1](C)(C1=CC([N+](=O)[O-])=CC=C1)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1300,"CCOC(=O)C1C=C(C)[O:1][C:2]1(C)[OH2+:3].CO.O=S(=O)([O-])O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2896,"CC(OC(=O)CCC=O)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1989,"C1CC([CH2:1][Br:2])C1.O=C1CCC2(O)C3CC4=CC=C(O)C5=C4C2(CC[NH:3]3)C1O5|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3535,"C1=CC=C(C23CC[O+:1]=[C:2]2OC2=CC=CC=C23)C=C1.C[OH:3].[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9132,"CCCC[O-:1].CCCC[O][Ti-]([O]CCCC)([O]CCCC)([O]CCCC)[O]C(C=CC=CI)CC(C)=CC(OC)=[O+][Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,5147,"C[C:1](C)([H:2])[C+:3]1CCCC1.[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,261,"O=C(C[NH2:1])[O][Ca:2][OH].[OH][Ca][OH2+]|(1, 2)"
train,pmechdb_split_0,0,621,"CCC1CCCC(C)C1[OH:1].Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5497,"CC(C)[N-:1]C(C)C.CC1=CC=C(S(=O)(=O)[O:2][CH:3](C)[CH:4](C)[H:5])C=C1|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,5625,"CC(C)CC(C1CCCCC1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,549,"CCO[C:1](=[C:2](C(O)C1=C(OC)C=CC=C1)[CH2:3][N+:4]12CCN(CC1)CC2)[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6518,"C[CH:1]1[O+:2]([B-](F)(F)F)CCC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8012,"CC(=O)[O-].COC1=C2C(=CC=C1)O[C:1]([O-:2])([O:3]C(C)=O)C(NC(=O)C1=CC=CC=C1)C2OC(C)=O.O=C(O)[O][K].[K+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8187,"C1=CC=C([O-:1])C=C1.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,6815,"CC1(C)C=CC(=O)C(C)(C[CH+]C(C)(O)[Si:1](C)(C)C)C1.O=C(C1=CC=CC(Cl)=C1)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,4999,"CC(=O)C1=CC2=C(C=C1)[CH:1]=[CH:2]C=C2.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,8533,"CC(C(C=O)C[N+](C)(C)C)[O-:1].C[CH:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7579,"CCNC(C)(O)[O:1]CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2592,"CCOC(=O)C1(C(=O)OCC)C(C)CCC(C#N)([C:1](OCC)=[O:2])C1C[C:3](=[CH2:4])[O-:5].CO|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2468,"CC(=O)CC1C(=O)CCCC1(O)[NH2+:1][H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6054,"CC(=O)[O:1][H:2].CC1=CCC(C)([OH:3])N1CCO.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3671,"CC(C)O.COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=CC([O][Al-:1]([O]C(C)C)([O]C(C)C)[O+:2]=C(C)C)CC321|((1, 2), 2)"
train,pmechdb_split_0,0,6000,"CC[NH+:1](C(C)C(C)=O)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2775,"CC(=O)CCC(=O)C1=CC(C2=CC=C(C)N2)=CC(C(=O)CCC(C)([NH3+])[O-:1])=C1.CC(=O)[O:2][H:3].O=C[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3136,"CC(=O)O.CC(=O)O[I:1]1(OCC(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,9823,"CN(C)C(=O)[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9260,"CCC[OH:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,3967,"COC1=CC=CC(CC[N+:1](=C(C)Cl)[H:2])=C1.O=P(Cl)(Cl)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4299,"O=S(=O)(O)[O-:1].ON=[N+:2](C1=CC=CC=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5308,"C1=CC=C([O-:1])C=C1.COC(C)=O.O=C([O][K])[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1871,"CCCCC1=C(B2OC3=C(C=CC=C3)O2)C2=C(C=CC=C2)[S+:1]1[CH3:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6259,"CCN(CC)C(C)(C)[OH:1].CC[NH+:2](CC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,303,"CC(C)(C)[O-:1].COC1=C2OC3C45CCN(CC6CC6)C(CC(=C24)C=C1)C5[CH:2]([H:3])[CH:4]([Br:5])C3(OC)OC.CS(C)=O.[K+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2848,"C[CH:1]1[NH+:2](C)CC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9876,"CC[O-:1].C[C:2](C)([H:3])[CH:4](C)[Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8245,"N#C[N+:1]1(CCO)CCC2=C(C=CS2)[CH:2]1C1=CC=CC=C1.[Br-]|((2, 1), 1)"
